US06410585B1
5-[(2S)-3-{[2-(1-benzyl-1H-indol-3-yl)ethyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (73 mg, 0.13 mmol) and 2-(1-benzyl-1H-indol-3-yl)ethylamine hydrochloride (45 mg, 0.16 mmol) according to Method C to give the title compound (48 mg). 1H-NMR (400 MHz, CD3OD) d 7.56 (d, J=7.6 Hz, 1H), 6.81 (d, J=8.5 Hz, 1H), 5.28 (s, 2H), 4.69 (s, 2H), 4.48 (m, 1H), 4.22 (dd, J=5.2 Hz, J=9.2 Hz, 1H), 3.52 (m, 1H), 3.38 (m, 1H), 2.98 (m, 2H), 2.86 (m, 3H), 2.72 (dd, J=9.3 Hz, J=13.8 Hz, 1H), 1.33 (s, 9H); HRMS m/z 762.3292 (calc. of monoisotopic mass for C43H46N4O9 gives 762.3265).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.13 mmol, 73 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 2-(1-benzyl-1H-indol-3-yl)ethylamine hydrochloride | 0.16 mmol, 45 mg | Cl.C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CCN
product | 5-[(2S)-3-{[2-(1-benzyl-1H-indol-3-yl)ethyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid | 48 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CCNC([C@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C43H46N4O9
